US04753941
Methacryloyl chloride (9 g) dissolved in methylene chloride (30 cc) is added in the course of 20 minutes to a solution of 2-amino-7-chloro-1,8-naphthyridine (9 g) and triethylamine (19 g) in methylene chloride (300 cc). After 30 minutes' heating under reflux, the solution obtained is washed with 0.5 N hydrochloric acid (150 cc) and distilled water (2×150 cc) and then concentrated to dryness under reduced pressure (4 kPa). The solid obtained (13.5 g) is dissolved in boiling methanol (350 cc). After 3 hours' cooling at 4° C., the crystallized solid is separated by filtration, washed with methanol (2×30 cc) and dried in the air. The isolated product (9 g; m.p. 195° C.) is then added in the course of 5 minutes to concentrated sulphuric acid (d=1.83; 19 cc). The reaction mixture is heated for 10 minutes to 60° C., stirred for 1 hour at 25° C. and then poured into distilled water (200 cc). The precipitate formed is separated by filtration, washed with distilled water (5×20 cc) and recrystallized in acetonitrile (70 cc). N-(7-Chloro-1,8-naphthyridin-2-yl)methacrylamide (5.4 g), m.p. 182° C., is thereby obtained.

reactant | Methacryloyl chloride | 9 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | 2-amino-7-chloro-1,8-naphthyridine | 9 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | triethylamine | 19 g | C(C)N(CC)CC | C6H15N
reactant | methanol | 350 cc | CO | CH4O
solvent | methylene chloride | 30 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 cc | C(Cl)Cl | CH2Cl2
product | N-(7-Chloro-1,8-naphthyridin-2-yl)methacrylamide | 5.4 g | ClC1=CC=C2C=CC(=NC2=N1)NC(C(=C)C)=O | C12H10ClN3O
